US07696223B2
b) 4-Acetoxy-3-bromo-7-cyano-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (1317-67-A)
Prepared in analogy to a bromination procedure in that of Example 103(a) from 4-Acetoxy-7-cyano-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, NBS and BzOOBz. The title compound, ESI MS (m/z): 428 (M+H)+.

reactant | 4-Acetoxy-7-cyano-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)C2=CC=CC=C2)OC(C)=O | C19H15N3O4
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | BzOOBz | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
product | 4-Acetoxy-3-bromo-7-cyano-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Br)C2=CC=CC=C2)OC(C)=O | C19H14BrN3O4
